US06861424B2
To a solution of 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-carboxypropyl]aminocarbonyl-4-methoxyquinoline (142 mg, 0.30 mmol) in tetrahydrofuran (THF) (5 mL) was added glycine t-butyl ester hydrochloride (44 mg, 0.33 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDCI) (64 mg, 0.33 mmol), 1-hydroxybenzotriazole (HOBT) (45 mg, 0.33 mmol) and diisopropylethylamine (DIEA) (0.43 g, 0.33 mmol). The reaction was stirred at ambient temperature overnight. The resultant solution was partitioned between water and ethyl acetate. The organic layer was concentrated in vacuo to afford an oil. The crude product was purified by elution through silica gel with 20:1 methylene chloride-methanol to afford 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(((1,1-dimethylethoxycarbonyl)methyl)aminocarbonyl)propyl]aminocarbonyl-4-methoxyquinoline (62 mg, 35%); NMR (CDCl3) 1.25 (t, 3), 1.50 (s, 9), 2.00 (m, 1), 2.15-2.50 (m, 3), 3.31-3.95 (m, 9), 4.10-4.32 (m, 7), 5.40 (m, 1), 759 (t, 1), 7.63 (s, 1), 7.75 (t, 1), 8.14 (d, 1), 8.22 (d, 1), 9.41 (d, 1) ppm.

reactant | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-carboxypropyl]aminocarbonyl-4-methoxyquinoline | 0.30 mmol, 142 mg | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)O)NC(=O)C1=NC2=CC=CC=C2C(=C1)OC | C23H28N4O7
reactant | glycine t-butyl ester hydrochloride | 0.33 mmol, 44 mg | Cl.C(C)(C)(C)OC(CN)=O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.33 mmol, 64 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 0.33 mmol, 45 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.33 mmol, 0.43 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-[1-(4-(ethoxycarbonyl)piperazin-1-yl)carbonyl-3-(((1,1-dimethylethoxycarbonyl)methyl)aminocarbonyl)propyl]aminocarbonyl-4-methoxyquinoline | 62 mg, 35% | C(C)OC(=O)N1CCN(CC1)C(=O)C(CCC(=O)NCC(=O)OC(C)(C)C)NC(=O)C1=NC2=CC=CC=C2C(=C1)OC | C29H39N5O8
